* E:\beadboard_monitoring\ltspice\components\stand alone ina.asc
* Generated by LTspice 24.1.5 for Windows.
V3 -5V 0 -5
V4 5V 0 3.3
V5 20V 0 40
X§U7 N008 N003 N007 N002 0 0 output3 N001 AD8227
R17 N003 N007 8000
Rshunt3 N008 N002 0.1
Rload3 N008 0 6
V2 24V 0 15
X§U1 20V N005 N006 N004 N004 0 AD8212
Rshunt1 N005 20V 0.1
Rload1 N005 0 20
R1 N006 0 15K
R2 N009 N010 100
X§U2 N006 N009 5V 0 N010 AD8603
* .tran 0 1 0 0.1
.op
.lib AD8603.sub
.lib ADI1.lib
.lib E:\beadboard_monitoring\ltspice\components\AD8212.cir
.backanno
.end
